US04870187
Ethyl 9,9-bis(4-fluorophenyl)-3,5-dihydroxy-8-(1H-tetrazol-1-yl)-6,8-nonadienoat
The reduction was carried out following the procedure described in Example 9. A solution of 180 mg (0.38 mmole) of ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1H-tetrazol-1-yl)-3-oxo-6,8-nonadienoate in 10 mL of tetrahydrofuran at 0° C. was treated with triethylborane (0.9 mL, 1M in tetrahydrofuran). After 2 hrs., the solution was cooled to -80° C. and treated with 30 mg of sodium borohydride followed by 200 μL of methanol. The crude product was purified by silica gel chromatography to yield 111.2 mg (62%) of the title compound.

reactant | ethyl 9,9-bis(4-fluorophenyl)-5-hydroxy-8-(1H-tetrazol-1-yl)-3-oxo-6,8-nonadienoate | 0.38 mmole, 180 mg | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)OCC)=O)O)N1N=NN=C1)C1=CC=C(C=C1)F | C24H22F2N4O4
reactant | triethylborane | 1M, 0.9 mL | C(C)B(CC)CC | C6H15B
reactant | sodium borohydride | 30 mg | [BH4-].[Na+]
reactant | methanol | 200 μL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Ethyl 9,9-bis(4-fluorophenyl)-3,5-dihydroxy-8-(1H-tetrazol-1-yl)-6,8-nonadienoat | 111.2 mg, 62% | FC1=CC=C(C=C1)C(=C(C=CC(CC(CC(=O)OCC)O)O)N1N=NN=C1)C1=CC=C(C=C1)F | C24H24F2N4O4
